datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"OCC(C[S-])[S:21][H:20].Oc1ccc2cc[n:10]cc2c1>>OCC(C[S-])[S-:21].Oc1ccc2cc[n+:10]([H:20])cc2c1 10=20;20,21=21",
"CC(CC(c1ccccc1)c1ccccc1)[N:10]1CCCCC1.c1cc2c(cc1[NH2+:21][H:20])CCCC2>>CC(CC(c1ccccc1)c1ccccc1)[N+:10]1([H:20])CCCCC1.c1cc2c(cc1[NH2:21])CCCC2 10=20;20,21=21",
"CC(=O)Oc1cccc2ccc[n:10]c12.CN(C)C=[N+:21](c1ccc(Br)cc1)[H:20]>>CC(=O)Oc1cccc2ccc[n+:10]([H:20])c12.CN(C)C=[N:21]c1ccc(Br)cc1 10=20;20,21=21",
"CN(C)C(=O)n1nc(C(C)(C)C)nc1SCC(=O)[O-:10].Cc1ccc(NC(=O)C[N+:21]2([H:20])CCCCC2)cc1>>CN(C)C(=O)n1nc(C(C)(C)C)nc1SCC(=O)[O:10][H:20].Cc1ccc(NC(=O)C[N:21]2CCCCC2)cc1 10=20;20,21=21",
"C1CC[NH:10]CC1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C1CC[NH+:10]([H:20])CC1.[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CCCCCC[N+:21](CC(C)O)(CC(O)CC)[H:20].O=C([O-])c1cc(-c2ccccc2)nnc1NCC[N:10]1CCOCC1>>CCCCCC[N:21](CC(C)O)CC(O)CC.O=C([O-])c1cc(-c2ccccc2)nnc1NCC[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"CC1(C)SC(=O)[N:21]([H:20])C1=O.Nc1ccc(-c2ccc(/N=C/c3ccc([O-:10])cc3)cc2)cc1>>CC1(C)SC(=O)[N-:21]C1=O.Nc1ccc(-c2ccc(/N=C/c3ccc([O:10][H:20])cc3)cc2)cc1 10=20;20,21=21",
"CCC1=C2C(=[N:10]c3ccccc32)N(C)C(Cl)=C1.C[NH+](C)CCSCC[N+:21](C)(C)[H:20]>>CCC1=C2C(=[N+:10]([H:20])c3ccccc32)N(C)C(Cl)=C1.C[NH+](C)CCSCC[N:21](C)C 10=20;20,21=21",
"O=[N+]([O-])[N-]c1nc[n-:10]n1.O=[N+]([O-])c1ccc(C2SCC[NH+:21]2[H:20])cc1>>O=[N+]([O-])[N-]c1nc[n:10]([H:20])n1.O=[N+]([O-])c1ccc(C2SCC[NH:21]2)cc1 10=20;20,21=21",
"CC(C)[NH:10]NC1CC[NH+](C)CC1.C[N+:21](C)(Cc1cc(/N=N/c2ccccc2)ccc1[O-])[H:20]>>CC(C)[NH+:10](NC1CC[NH+](C)CC1)[H:20].C[N:21](C)Cc1cc(/N=N/c2ccccc2)ccc1[O-] 10=20;20,21=21",
"COC(=O)c1ccc([O:21][H:20])cc1.c1cc([O-:10])c2ccnnc2c1>>COC(=O)c1ccc([O-:21])cc1.c1cc([O:10][H:20])c2ccnnc2c1 10=20;20,21=21",
"Brc1cc(Br)cc([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Brc1cc(Br)cc([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[C@H](C)[C@@H](C(=O)[O-])[NH2:10].Nc1sc2ccccc2[n+:21]1[H:20]>>CC[C@H](C)[C@@H](C(=O)[O-])[NH2+:10][H:20].Nc1sc2ccccc2[n:21]1 10=20;20,21=21",
"CCCCC[NH:10]Cc1ccccc1O.O=C([O-])Cc1nnn[n:21]1[H:20]>>CCCCC[NH+:10](Cc1ccccc1O)[H:20].O=C([O-])Cc1nnn[n-:21]1 10=20;20,21=21",
"CN(C)C([OH2+])[O:21][H:20].c1ccc2c(c1)C1CC[N:10]2c2ccccc21>>CN(C)C([OH2+])[O-:21].c1ccc2c(c1)C1CC[N+:10]2([H:20])c2ccccc21 10=20;20,21=21",
"CCCNC(=O)C(Cc1c[nH]cn1)NC(=O)c1cccc(CNCC[NH2:10])n1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCNC(=O)C(Cc1c[nH]cn1)NC(=O)c1cccc(CNCC[NH2+:10][H:20])n1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].SCC[NH:10]CCc1ccccc1>>O=C1SC2=C(C=CC=C2)[CH-:21]1.SCC[NH+:10](CCc1ccccc1)[H:20] 10=20;20,21=21",
"C[N+:21]1([H:20])C[C@H](C(=O)[O-])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@H]21.C[NH+](C)CCC/[N:10]=C(/c1ccccc1)c1cccc2ccccc12>>C[N:21]1C[C@H](C(=O)[O-])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@H]21.C[NH+](C)CCC/[N+:10](=C(/c1ccccc1)c1cccc2ccccc12)[H:20] 10=20;20,21=21",
"CC1=CC(=O)C([O-:10])=C(Br)C=C1.[NH3+]CCCc1ccc[n+:21]([H:20])c1>>CC1=CC(=O)C([O:10][H:20])=C(Br)C=C1.[NH3+]CCCc1ccc[n:21]c1 10=20;20,21=21",
"CC(=C(CCO)SSCCC(C)C)N(C=O)Cc1c[n+:21]([H:20])c(C)nc1N.CC(=O)Nc1nnn[n-:10]1>>CC(=C(CCO)SSCCC(C)C)N(C=O)Cc1c[n:21]c(C)nc1N.CC(=O)Nc1nnn[n:10]1[H:20] 10=20;20,21=21",
"CC(O)[OH+:21][H:20].Fc1ccc([O-:10])c(C[NH+]2CCCCC2)c1>>CC(O)[OH:21].Fc1ccc([O:10][H:20])c(C[NH+]2CCCCC2)c1 10=20;20,21=21",
"CC(=O)NCC[NH2:10].c1cc2cc[nH]c2[n+:21]([H:20])c1>>CC(=O)NCC[NH2+:10][H:20].c1cc2cc[nH]c2[n:21]c1 10=20;20,21=21",
"CC(C)c1ccc(C(=O)/C=C/C(=O)[O:21][H:20])cc1.CCc1nc(CC)[n-:10]n1>>CC(C)c1ccc(C(=O)/C=C/C(=O)[O-:21])cc1.CCc1nc(CC)[n:10]([H:20])n1 10=20;20,21=21",
"O=C(C12CCC(O)(CC1)CC2)[O:21][H:20].O=Cc1ncccc1[O-:10]>>O=C(C12CCC(O)(CC1)CC2)[O-:21].O=Cc1ncccc1[O:10][H:20] 10=20;20,21=21",
"C[C@H]1CC[C@@H]2CCC[N:10]21.[NH3+]C(Cc1c[nH]c[nH+]1)C(=O)[O:21][H:20]>>C[C@H]1CC[C@@H]2CCC[N+:10]21[H:20].[NH3+]C(Cc1c[nH]c[nH+]1)C(=O)[O-:21] 10=20;20,21=21",
"C[O+:21](C)[H:20].OC(C[NH2:10])c1ccc(Cl)cc1>>C[O:21]C.OC(C[NH2+:10][H:20])c1ccc(Cl)cc1 10=20;20,21=21",
"C(=C\c1cc[n+:21]([H:20])cc1)\c1ccncc1.[O-]c1nc(C(F)(F)F)nc2c1[nH]c[n:10]2>>C(=C\c1cc[n:21]cc1)\c1ccncc1.[O-]c1nc(C(F)(F)F)nc2c1[nH]c[n+:10]2[H:20] 10=20;20,21=21",
"CCOCC[NH+:21](c1ccc(Cl)cc1)[H:20].O=S(CCCCc1ccccc1)[O-:10]>>CCOCC[NH:21]c1ccc(Cl)cc1.O=S(CCCCc1ccccc1)[O:10][H:20] 10=20;20,21=21",
"Nc1cncnc1[NH-:10].[NH3+][C@H]1C[C@@H]1[NH2+:21][H:20]>>Nc1cncnc1[NH:10][H:20].[NH3+][C@H]1C[C@@H]1[NH2:21] 10=20;20,21=21",
"O=[N+]([O-])c1ccc(-c2oc(-c3ccccc3)c[n+:21]2[H:20])cc1.[NH3+]CCCCCc1cc[n:10]cc1>>O=[N+]([O-])c1ccc(-c2oc(-c3ccccc3)c[n:21]2)cc1.[NH3+]CCCCCc1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"CC[NH:10]C[Si](C)(C)C.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC[NH+:10](C[Si](C)(C)C)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC(/N=C1\C=CC=CN1C)=[O:10].Cc1cc(Nc2ccc([O-])cc2)c(C(C)C)cc1[O:21][H:20]>>CC(/N=C1\C=CC=CN1C)=[O+:10][H:20].Cc1cc(Nc2ccc([O-])cc2)c(C(C)C)cc1[O-:21] 10=20;20,21=21",
"COc1ccc(C(c2ccccc2)[OH+:21][H:20])cc1.COc1cccc(S(=O)(=O)[NH-:10])c1>>COc1ccc(C(c2ccccc2)[OH:21])cc1.COc1cccc(S(=O)(=O)[NH:10][H:20])c1 10=20;20,21=21",
